* Z:\home\ostoja\Elektronika\DS100M06V_linear\simulacije\701_capacitance_multiplier.asc
R1 N006 vcc_in 1k
C1 N006 0 47µ
V1 N009 N010 PULSE(-1 1 0 10u 10u 1n 20u)
V2 N010 0 9
I1 N003 0 30m
V3 vcc_in N009 PULSE(-1 1 0 {t2} {t2} 1n {2*t2})
R2 N006 0 3.3k
B1 vee_in 0 V=-V(vcc_in)
R3 N004 N007 1k
R322 N007 0 3.3k
V4 N004 0 9
XU2 vcc_in N006 N003 bd679
Q1 vcc_in N008 N005 0 2N3904
R4 N008 vcc_in 1k
C2 N008 0 47µ
R5 N008 0 2.2k
I2 N005 0 30m
R6 N002 vee_in 1k
C3 N002 0 47µ
R7 N002 0 2.2k
I3 N001 0 -30m
Q2 vee_in N002 N001 0 2N2905
.model NPN NPN
.model PNP PNP
.lib C:\users\ostoja\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 1000m
.param t2 = 0.5u
.lib BD679.SP3
.backanno
.end
