.subckt SMV1255 K A
L1 AL A 0.7e-9
R1 AL AR 1
C1 AL K 2.74e-12
D1 AR K DIOD
.model DIOD D IS=1.00e-014 RS=0 N=1 TT=0 CJO=8e-011 VJ=135 M=100 EG=1.11 XTI=3 KF=0 AF=1 FC=0.5 BV=20 IBV=1e-3 ISR = 0 NR = 2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0 TNOM=27
