* C:\users\ostoja\Desktop\Elektronika\diff_sonde\DS100M08KV\simulacije\ac_analysis_capacitance_crossover.asc
V1 2.5V 0 2.75
V2 -2.5V 0 -2.75
V3 N010 N015 AC 100
R1 N006 N001 {1Meg * (100 +res_tol)/100}
R10 N019 N014 10k
C6 N002 N001 10p
C3 N003 N002 10p
C4 N004 N003 10p
C5 N005 N004 10p
C9 N020 N015 10p
C10 N021 N020 10p
C11 N022 N021 10p
C12 N019 N022 10p
C15 N005 0 100p
C16 N019 0 1p
R5 N009 N005 10k
R13 diff- N013 {Rf / 200 * gain * (100 + tolerance) / 100}
R16 0 N011 {Rf * (100 - tolerance)/100}
V5 N010 0 10
C7 N005 0 470p
C8 N019 0 470p
V4 9V 0 9
V6 -9V 0 -9
V7 5V 0 {five}
V8 0 -5V {five}
XU4 N011 N013 5V -5V N012 AD8009an
B1 N023 0 V=20*(V(diff+) - V(diff-))
R17 0 N023 100k
C18 N011 0 {par_cap}
R11 N009 0 25
R12 0 N014 25
C2 N005 0 470p
C21 N019 0 470p
R15 N013 N012 {Rf * (100 - tolerance)/100}
R18 N011 diff+ {Rf / 200 * gain * (100 + tolerance) / 100}
C17 N012 0 {par_cap}
C1 N013 0 {par_cap}
C19 diff- 0 {par_cap}
C20 diff+ 0 {par_cap}
R2 N007 N006 {1Meg * (100 +res_tol)/100}
R3 N008 N007 {1Meg * (100 +res_tol)/100}
R4 N005 N008 {1Meg * (100 +res_tol)/100}
R14 N016 N015 {1Meg * (100 +res_tol)/100}
R19 N017 N016 {1Meg * (100 +res_tol)/100}
R20 N018 N017 {1Meg * (100 +res_tol)/100}
R21 N019 N018 {1Meg * (100 +res_tol)/100}
V9 N001 N010 AC 100
XU2 N019 diff- 5V -5V diff- AD8038
XU3 N005 diff+ 5V -5V diff+ AD8038
;tran 0 10m 0 1n
* 1 / 400
.param five=5
* 82.5 dB CMRR at 100 kHz
.param tolerance=-1
.param par_cap=10p
.param res_tol=-0.1
.param gain=100
.ac dec 100 100 150Meg
.param Rf = 1000
.lib AD8009an.sub
.lib ADI.lib
.backanno
.end
